US08912331B2
Step 4: Quinoline-6-carbonitrile
To a solution of quinoline-6-carboxamide (177 g, 1.03 mol) in chloroform (1.5 lit.) and triethylamine (520.15 g, 5.15 mol), trifluoroacetic anhydride (540.34 g, 2.57 mol) was added dropwise below 10° C. After 1.5 h, the pH was adjusted to 7 with sodium bicarbonate solution and extracted with dichloromethane. The organic layer was dried with sodium sulphate and concentrated to afford the title compound as a brown solid (96 g, 59%).

reactant | quinoline-6-carboxamide | 1.03 mol, 177 g | N1=CC=CC2=CC(=CC=C12)C(=O)N | C10H8N2O
reactant | triethylamine | 5.15 mol, 520.15 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 2.57 mol, 540.34 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 1.5 lit. | C(Cl)(Cl)Cl | CHCl3
product | Quinoline-6-carbonitrile | 96 g, 59% | N1=CC=CC2=CC(=CC=C12)C#N | C10H6N2
